US08067408B2
N-{[6-Chloro-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-5-methyl-1,3-benzenedicarboxamide
N-[(6-Chloro-3′-formyl-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-5-methyl-1,3-benzenedicarboxamide (30.36 mg, 0.044 mmol), 1,1-dimethylethyl 1-piperazinecarboxylate (82 mg, 0.44 mmol, 10 eq) and acetic acid (2.51 μL, 0.044 mmol, 1 eq) were dissolved in DMSO (1.5 mL). The mixture was stirred in VX-2500 Multi-Tube Vortexer for overnight at room temperature. MP-triacetoxyborohydride (133 mg, 0.310 mmol, 7 eq) was then added and the mixture was stirred again in VX-2500 Multi-Tube Vortexer for overnight at room temperature. The reaction mixture was filtered through a polypropylene cartridge (10 mL tube) on Bohdan Miniblock in a reaction tube and concentrated in a Glas-Col evaporator. Methanol (2 mL) then hydrochloric acid (5 μL) were added for the deprotection of 1,1-dimethylethyl 4-[(2′-chloro-5′-{[({3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-5-methylphenyl}carbonyl)amino]methyl}-3-biphenylyl)methyl]-1-piperazinecarboxylate. The vial containing the reaction mixture was closed and stirred in a Glas-Col evaporator for overnight at 60° C. The reaction mixture was then concentrated and purified using a Gilson HPLC with a water-acetonitrile with 0.1% TFA buffer. The desired product fractions were combined, filtered through amine cartouche (500 mg) on Bohdan Miniblock and concentrated in a Glas-Col evaporator, giving 23.82 mg (64.1%) of the title compound. LC-MS m/z 763 (M+H)+, 1.32 min (ret time).

reactant | N-[(6-Chloro-3′-formyl-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-5-methyl-1,3-benzenedicarboxamide | 0.044 mmol, 30.36 mg | ClC1=CC=C(C=C1C1=CC(=CC=C1)C=O)CNC(=O)C1=CC(=CC(=C1)C)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C39H41ClN6O4
reactant | 1,1-dimethylethyl 1-piperazinecarboxylate | 0.44 mmol, 82 mg, 10 eq | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | acetic acid | 0.044 mmol, 2.51 μL, 1 eq | C(C)(=O)O | C2H4O2
reactant | triacetoxyborohydride | 0.310 mmol, 133 mg, 7 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | N-{[6-Chloro-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-5-methyl-1,3-benzenedicarboxamide | 23.82 mg, 64.1% | ClC1=CC=C(C=C1C1=CC(=CC=C1)CN1CCNCC1)CNC(=O)C1=CC(=CC(=C1)C)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C43H51ClN8O3
